US06166246
3.88 g (0.02 mole) of 2,3,4,5-tetrafluorobenzoic acid, 3.23 g (0.08 mole) of powdery 99% sodium hydroxide and 40 ml of 1,3-dimethyl-2-imidazolidinone were fed into a 200-ml four-necked flask provided with a thermometer, a stirrer and a reflux condenser. The mixture was stirred at 130° C. for 3 hours to give rise to a reaction. Then, the same post-treatment as in Example 1 was conducted to obtain 1.14 g of 3,4,5-trifluorosalicylic acid. The isolated yield was 29.7% relative to the 2,3,4,5-tetrafluorobenzoic acid used.

reactant | 2,3,4,5-tetrafluorobenzoic acid | 0.02 mole, 3.88 g | FC1=C(C(=O)O)C=C(C(=C1F)F)F | C7H2F4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,3-dimethyl-2-imidazolidinone | 40 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 3,4,5-trifluorosalicylic acid | 1.14 g, yield was 29.7% | FC1=C(C(C(=O)O)=CC(=C1F)F)O | C7H3F3O3
